US04186199
1-(2-Aminophenyl)-5-chloroindoline hydrochloride
A mixture of 13.7 g of 5-chloro-1-(2-nitrophenyl)indoline and 0.25 g of 1% Pt on C in 250 ml absolute ethanol is shaken at 50 psi of H2 until the theoretical amount of H2 is taken up. The mixture is filtered and the solvent removed at 50° C. to leave the product base as an oil. This is dissolved in 200 ml of ether, cooled to 0° C., and treated with gaseous HCl to precipitate 1-(2-aminophenyl)-5-chloroindoline hydrochloride, m.p. 235°-238° C. dec.

reactant | 5-chloro-1-(2-nitrophenyl)indoline | 13.7 g | ClC=1C=C2CCN(C2=CC1)C1=C(C=CC=C1)[N+](=O)[O-] | C14H11ClN2O2
reactant | HCl | Cl | ClH
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 1-(2-Aminophenyl)-5-chloroindoline hydrochloride | Cl.NC1=C(C=CC=C1)N1CCC2=CC(=CC=C12)Cl | InChI=1S/C14H13ClN2.ClH/c15-11-5-6-13-10(9-11)7-8-17(13)14-4-2-1-3-12(14)16;/h1-6,9H,7-8,16H2;1H
